US07361772B2
A mixture of (6-{2-[2-(4-Fluoro-phenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrolidin-1-yl]-ethyl}-2-phenyl-[1,3,2]dioxaborinan-4-yl)-acetic acid tert-butyl ester (50 g, 0.07 mol), water (2 L), THF (2 L) and calcium oxide (50 g, 0.9 mol) was stirred at 50-60° C. for 8 hours. After filtering the reaction mixture, the resulting clear filtrate was concentrated to about 1.5 L and washed with methyl tert-butyl ether (500 ml). The aqueous layer was evaporated and solid obtained was dissolved in THF (500 ml). The solution was filtered and concentrated to yield atorvastatin calcium.

reactant | (6-{2-[2-(4-Fluoro-phenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrolidin-1-yl]-ethyl}-2-phenyl-[1,3,2]dioxaborinan-4-yl)-acetic acid tert-butyl ester | 0.07 mol, 50 g | C(C)(C)(C)OC(CC1OB(OC(C1)CCN1C(C(C(C1C(C)C)C(NC1=CC=CC=C1)=O)C1=CC=CC=C1)C1=CC=C(C=C1)F)C1=CC=CC=C1)=O | C43H50BFN2O5
reactant | water | 2 L | O | H2O
reactant | calcium oxide | 0.9 mol, 50 g | [O-2].[Ca+2]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 2 L | C1CCOC1 | C4H8O
product | atorvastatin calcium | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.[Ca+2] | InChI=1S/2C33H35FN2O5.Ca/c2*1-21(2)31-30(33(41)35-25-11-7-4-8-12-25)29(22-9-5-3-6-10-22)32(23-13-15-24(34)16-14-23)36(31)18-17-26(37)19-27(38)20-28(39)40;/h2*3-16,21,26-27,37-38H,17-20H2,1-2H3,(H,35,41)(H,39,40);/q;;+2/p-2/t2*26-,27-;/m11./s1
